US07001897B2
To a solution of 1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)-3-hydroxyazetidine (8.5 g, 37.2 mmol) (obtained as described in Reference Example 1(2)) in dimethylformamide (255 ml) were added t-butyldiphenylsilyl chloride (19.4 ml, 74.5 mmol) and imidazole (5.07 g, 74.5 mmol) in an ice bath. After stirring the mixture in an ice bath for 10 minutes, the resulting mixture was stirred at room temperature for 2.5 hours. After checking the completion of the reaction, ethanol (2.59 ml) was added to the reaction mixture in an ice bath and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (6:1→2:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine (14.85 g, yield 86%) as a pale brown solid.

reactant | 1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)-3-hydroxyazetidine | 37.2 mmol, 8.5 g | C(C)OC(=O)C=1N=C(SC1)N1CC(C1)O | C9H12N2O3S
reactant | t-butyldiphenylsilyl chloride | 74.5 mmol, 19.4 ml | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 74.5 mmol, 5.07 g | N1C=NC=C1 | C3H4N2
reactant | ethanol | 2.59 ml | C(C)O | C2H6O
solvent | dimethylformamide | 255 ml | CN(C=O)C | C3H7NO
product | 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine | 14.85 g, yield 86% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)OCC | C25H30N2O3SSi
